US04851519
0.10 g of 5'-(2-acetoxyethyl)-3'-O-acetyl-2',5'-dideoxy-5-ethyluridine was treated with 5 ml of a dilute solution of sodium methoxide in methanol. After standing at room temperature for 2 hours the solution was neutralized by the addition of a cross-linked polystyrene-divinylbenzene cation exchange resin containing sulfonic acid groups (H+ form) and then filtered. The filtrate was evaporated to dryness to give 0.045 g of 2',5'-dideoxy-5-ethyl-5'-(2-hydroxyethyl)uridine in the form of a white solid of melting point 113°-115° C.

reactant | 5'-(2-acetoxyethyl)-3'-O-acetyl-2',5'-dideoxy-5-ethyluridine | 0.10 g | C(C)(=O)OCCC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)CC)OC(C)=O | C17H24N2O7
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 2',5'-dideoxy-5-ethyl-5'-(2-hydroxyethyl)uridine | 0.045 g | C(C)C=1C(NC(N([C@H]2C[C@H](O)[C@@H](CCCO)O2)C1)=O)=O | C13H20N2O5
